US04996206
A mixture of 1.1 g of dimethyl N-[4-(4-hydroxypyrrolo[2,3-d]pyrimidin-3-ylethynyl)benzoyl]-L-glutamate in 100 mL of 50% methanol in methylene chloride and 0.8 g of 3% palladium-on-carbon is hydrogenated at 50 p.s.i. for 24 hours, filtered, and concentrated under reduced pressure. Ether is added to the residue and the solid is collected by filtration and dried to yield 0.67 g of dimethyl N-{4-[2-(4-hydroxypyrrolo[2,3-d]pyrimidin-3-yl)ethyl]benzoyl}-L-glutamate. mp 170-172° C. 1NMR (d6 -DMSO) δ1.94-2.14 (m, 2H), 2.44 (t, J=7.4 Hz, 2H), 2.93-3.02 (m, 2H), 3.57 (s, 3H), 3.63 (s, 3H), 4.40-4.70 (m, 1H), 6.71 (s, 1H), 7.29 (d, J=8.2 Hz, 2 H), 7.77 (m, 3 H), 8.66 (d, J=7.4 Hz, 1H), 11.52 (s, 1H), 11.71 (s, 1H).

reactant | dimethyl N-[4-(4-hydroxypyrrolo[2,3-d]pyrimidin-3-ylethynyl)benzoyl]-L-glutamate | 1.1 g | OC1=C2C(N=CN1C#CC1=CC=C(C(=O)N[C@@H](CCC(=O)OC)C(=O)OC)C=C1)=NC=C2 | C22H20N4O6
solvent | methanol | 100 mL | CO | CH4O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | palladium-on-carbon | 0.8 g | [Pd] | Pd
product | dimethyl N-{4-[2-(4-hydroxypyrrolo[2,3-d]pyrimidin-3-yl)ethyl]benzoyl}-L-glutamate | 0.67 g | OC1=C2C(N=CN1CCC1=CC=C(C(=O)N[C@@H](CCC(=O)OC)C(=O)OC)C=C1)=NC=C2 | C22H24N4O6
